US04064122
1.58 g(5 m mol) of DL-α-hydroxy-4-(p-methoxybenzyloxycarbonyl)phenylacetic acid were suspended in 10 ml of anhydrous methylene chloride and ice-cooled. To this suspension were added dropwise 5 ml of anhydrous methylene chloride solution containing 0.68 g(6 m mol) of chloroacetyl chloride with stirring over the course of 5 minutes. Then the temperature of the solution was raised slowly to ambient temperature, and the solution was stirred for 30 minutes to give a clear solution, The reaction mixture was poured into 20 ml of ice-water and adjusted to pH 2.5 with an aqueous sodium hydrogen carbonate solution. The organic layer was separated and the aqueous layer was extracted several times with methylene chloride. The combined organic layers were washed with water and dried over anhydrous magnesium sulfate. The solvent was removed in vacuo to give a pale yellow oily residue, which then was dissolved in 20 ml of benzene and left overnight in an ice-box, yielding 1.52 g (78%) of crystalline DL-α-chloroacetoxy-4-(p-methoxybenzyloxycarbonyl)phenylacetic acid of mp. 121°~125° C.

reactant | α-hydroxy-4-(p-methoxybenzyloxycarbonyl)phenylacetic acid | OC(C(=O)O)C1=CC=C(C=C1)C(=O)OCC1=CC=C(C=C1)OC | C17H16O6
reactant | chloroacetyl chloride | 0.68 g | ClCC(=O)Cl | C2H2Cl2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | α-chloroacetoxy-4-(p-methoxybenzyloxycarbonyl)phenylacetic acid | ClCC(=O)OC(C(=O)O)C1=CC=C(C=C1)C(=O)OCC1=CC=C(C=C1)OC | C19H17ClO7
